* source SWITCH
V_V1         N14463 0 3.3v
V_V2         N14529 0 5V
X_Q1         N17220 N14463 0 awb2n2222 PARAMS:                                 
+            
R_R1         N17220 N14529  10 TC=0,0 
